US07754737B2
To a stirred solution of 3-fluorophenylboronic acid (2.10 g, 15 mmol), 2-bromophenol (1.77 g, 10 mmol) and Cu(OAc)2 (0.93 g, 5 mmol) in anhydrous CH2Cl2 (25 mL) was added activated 4 Å molecular sieves (˜0.1 g), followed by anhydrous Et3N (3.5 mL, 25 mmol). The resulting dark green solution was stirred at rt for 48 h. The mixture was evaporated under reduced pressure and the residue was washed several times with Et2O (˜150 mL). The Et2O solution was washed with sat'd aq NH4Cl, and 1 N aq HCl. The organic layer was evaporated and the crude product was purified by flash column chromatography to give 1-(3-fluorophenoxy)-2-bromobenzene (1.28 g, 48%) as clear oil.

reactant | 3-fluorophenylboronic acid | 15 mmol, 2.10 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 2-bromophenol | 10 mmol, 1.77 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | Et3N | 25 mmol, 3.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 5 mmol, 0.93 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 1-(3-fluorophenoxy)-2-bromobenzene | 1.28 g, 48% | FC=1C=C(OC2=C(C=CC=C2)Br)C=CC1 | C12H8BrFO
